US07820664B2
To a solution of acetone oxime (3.17 g, 43.3 mmol) in THF (40 ml) was added t-BuOK (43.3 ml, 1 M in THF, 43.3 mmol). After stirring at room temperature for 30 min, the mixture was cooled to −78° C. To the mixture was added a solution of methyl 5-acetyl-3,4-difluoro-2-(2-fluorophenylamino)benzoate (4.0 g, 12.4 mmol) in THF (70 ml) dropwise. After stirring at −78° C. for 15 min, the reaction was warmed to 0° C. and stirred at the temperature for 4 h. The reaction was quenched with saturated aqueous NH4Cl solution (200 ml) and extracted with EtOAc (2×200 ml). The organic solution was washed with brine (100 ml), dried over MgSO4 and concentrated. To the resulting oil was added a mixture of 5% HCl solution (100 ml) and MeOH (100 ml). The resulting suspension was heated at reflux for 1.5 h. The reaction was cooled to room temperature, concentrated to half volume, and diluted with EtOAc (200 ml). The organic solution was washed with brine (100 ml), dried over Na2SO4 and concentrated. Silica gel chromatography (EtOAc:Hexanes=25:75) yielded 2.84 g (72%) of methyl 7-fluoro-6-(2-fluorophenylamino)-3-methylbenzo[d]isoxazole-5-carboxylate as a white solid.

reactant | acetone oxime | 43.3 mmol, 3.17 g | CC(C)=NO | C3H7NO
reactant | t-BuOK | 43.3 mmol, 1 M, 43.3 ml | CC(C)(C)[O-].[K+]
reactant | methyl 5-acetyl-3,4-difluoro-2-(2-fluorophenylamino)benzoate | 12.4 mmol, 4.0 g | C(C)(=O)C=1C(=C(C(=C(C(=O)OC)C1)NC1=C(C=CC=C1)F)F)F | C16H12F3NO3
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | methyl 7-fluoro-6-(2-fluorophenylamino)-3-methylbenzo[d]isoxazole-5-carboxylate | 2.84 g, 72% | FC1=C(C(=CC=2C(=NOC21)C)C(=O)OC)NC2=C(C=CC=C2)F | C16H12F2N2O3
